US07589232B2
Step a) Formation of (2E)-N-(4-dec-1-ynylbenzyl)-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-3-phenylacrylamide
The title compound was prepared following the procedure E using 6-[(4-dec-1-ynylbenzyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one and (2E)-3-phenylacryloyl chloride. HPLC, Rt: 6.3 min (purity: 95.5%).

reactant | 6-[(4-dec-1-ynylbenzyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | C(#CCCCCCCCC)C1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C27H33NO3
reactant | (2E)-3-phenylacryloyl chloride | C1(=CC=CC=C1)/C=C/C(=O)Cl | C9H7ClO
product | (2E)-N-(4-dec-1-ynylbenzyl)-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-3-phenylacrylamide | C(#CCCCCCCCC)C1=CC=C(CN(C(\C=C\C2=CC=CC=C2)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C36H39NO4
